US08114893B2
Step 1: Preparation of ethyl 3-bromo-6-chloro-2-oxohexanoate (23A)
Ethyl 6-chloro-2-oxohexanoate (2.9 g, 15 mmol) in carbon tetrachloride (30 mL) was treated with bromine (0.85 mL, 16.5 mmol) and stirred at ambient temperature for 1 hour. The reaction mixture was diluted with EtOAc, washed with Na2S2O3 solution, water and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The concentrate was purified by column chromatography on silica gel eluting with a gradient of 0 to 10% EtOAc in hexanes to provide (95%) of the desired product ethyl 3-bromo-6-chloro-2-oxohexanoate (23A) as a pale yellow oil: 1H NMR (300 MHz, DMSO-d6) δ ppm 5.25 (1H, dd), 4.29 (2H, q), 3.71 (2H, t), 2.16 (1H, m), 1.91 (1H, m), 1.29 (3H, t).

reactant | Ethyl 6-chloro-2-oxohexanoate | 15 mmol, 2.9 g | ClCCCCC(C(=O)OCC)=O | C8H13ClO3
reactant | bromine | 16.5 mmol, 0.85 mL | BrBr | Br2
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 3-bromo-6-chloro-2-oxohexanoate | BrC(C(C(=O)OCC)=O)CCCCl | C8H12BrClO3
